US07960563B2
1-(3,5-Difluoro-4-hydroxyphenyl)-4-hydroxy-1H-indazole-6-carbonitrile (E20)
A solution of 1-{3,5-difluoro-4-[(phenylmethyl)oxy]phenyl}-4-hydroxy-1H-indazole-6-carbonitrile (D37) (610 mg, 1.617 mmol) in ethyl acetate (50 mL) was passed through the H-cube over a 10% palladium on charcoal catalyst at room temperature and pressure. The filtrate was concentrated and then triturated with dichloromethane and collected by filtration to yield the desired product (E20) (235 mg).

reactant | 1-{3,5-difluoro-4-[(phenylmethyl)oxy]phenyl}-4-hydroxy-1H-indazole-6-carbonitrile | 1.617 mmol, 610 mg | FC=1C=C(C=C(C1OCC1=CC=CC=C1)F)N1N=CC2=C(C=C(C=C12)C#N)O | C21H13F2N3O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | [Pd] | Pd
product | 1-(3,5-Difluoro-4-hydroxyphenyl)-4-hydroxy-1H-indazole-6-carbonitrile | 235 mg | FC=1C=C(C=C(C1O)F)N1N=CC2=C(C=C(C=C12)C#N)O | C14H7F2N3O2
